US04344877
In an analogous manner is also reacted diethyl bicyclo [2.2.1]hept-5-ene-endo,exo-2,3-dicarboxylate with 1-n-octadecyl-2,2,6,6-tetramethyl-4-piperidinol to give wax-like bis-(1-n-octadecyl-2,2,6,6-tetramethyl-4-piperidyl) bicyclo[2.2.1]hept-5-ene-endo,exo-2,3-dicarboxylate. (Example 9)

reactant | diethyl bicyclo [2.2.1]hept-5-ene | C(C)C1=C(C2CCC1C2)CC | C11H18
reactant | 1-n-octadecyl-2,2,6,6-tetramethyl-4-piperidinol | C(CCCCCCCCCCCCCCCCC)N1C(CC(CC1(C)C)O)(C)C | C27H55NO
product | bis-(1-n-octadecyl-2,2,6,6-tetramethyl-4-piperidyl) bicyclo[2.2.1]hept-5-ene | C(CCCCCCCCCCCCCCCCC)N1C(CC(CC1(C)C)C1=C(C2CCC1C2)C2CC(N(C(C2)(C)C)CCCCCCCCCCCCCCCCCC)(C)C)(C)C | C61H116N2
